*
* NGSPICE simulation script
*Title: t1
*

* forces current values to be saved
.options savecurrents


*voltage sources
Va 1 0 5.18937402699V

Vnull 0 0b 0.V

Hvc 4 7 Vnull 8.32372114868kOhm


*current sources
Id 7 5 1.00970251859mA

Gib 5 3 2 4 7.32338601881mS


*resistors
R1 1 2 1.02738610688kOhm

R2 3 2 2.03394761163kOhm

R3  2 4 3.13880655715kOhm

R4 4 0 4.00338881943kOhm

R5 5 4 3.07163426496kOhm

R6 0b 6 2.05278260557kOhm

R7 6 7 1.01283324471kOhm

.op
.end


*Control comands
.control
op
echo  "op_TAB"
print @Va[i] @Hvc[i]
print all
echo  "op_END"

.endc
